US07026323B2
1-Ethoxycarbonyl-1-bromocyclobutane (0.62 g, 3.03 mmol) was added to a solution of 2-[1-(4-(ethoxycarbonyl)piperazin-1-yl)carbonyl-3-(1,1-dimethylethoxycarbonyl)propyl]aminocarbonyl-4-hydroxyquinoline (0.8 g, 1.52 mmol) and cesium carbonate (1.00 g, 3.03 mmol) in N,N-dimethylformamide (DMF) (15 mL) and stirred at 90–100° C. At every 2 hours, excess equimolar amounts of 1-ethoxycarbonyl-1-bromocyclobutane and cesium carbonate were added to the solution to a total of 8 equivalents of each reagent. After 10 hours, the reaction mixture was filtered, the solvent was evaporated and the residue was purified by preparative HPLC to afford 2-[1-(4-(ethoxycarbonyl)piperazin-1-yl)carbonyl-3-(1,1-dimethylethoxycarbonyl)propyl]aminocarbonyl-7-methyl-4-(1-(ethoxycarbonyl)cyclobut-1-oxy)quinoline (0.45 g , 38%) as a white solid (TFA salt); NMR (DMSO-d6) 1.04 (t, 3), 1.14 (t, 3), 1.32 (s, 9), 1.82 (m, 1), 2.00 (m, 3), 2.26 (m, 2), 2.52 (s, 3), 2.58 (m, 2), 2.78 (m, 2), 3.5 (m, 8), 4.04 (q, 2), 4.15 (q, 2), 5.00 (m, 1), 6.94 (s, 1), 7.52 (d, 1), 7.88 (s, 1), 8.14 (d, 1), 8.84 (d, 1) ppm.

reactant | 1-Ethoxycarbonyl-1-bromocyclobutane | 3.03 mmol, 0.62 g | C(C)OC(=O)C1(CCC1)Br | C7H11BrO2
reactant | 2-[1-(4-(ethoxycarbonyl)piperazin-1-yl)carbonyl-3-(1,1-dimethylethoxycarbonyl)propyl]aminocarbonyl-4-hydroxyquinoline | 1.52 mmol, 0.8 g | C(C)OC(=O)N1CCN(CC1)C(=O)C(CCC(=O)OC(C)(C)C)NC(=O)C1=NC2=CC=CC=C2C(=C1)O | C26H34N4O7
reactant | cesium carbonate | 3.03 mmol, 1.00 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 2-[1-(4-(ethoxycarbonyl)piperazin-1-yl)carbonyl-3-(1,1-dimethylethoxycarbonyl)propyl]aminocarbonyl-7-methyl-4-(1-(ethoxycarbonyl)cyclobut-1-oxy)quinoline | 0.45 g, 38% | C(C)OC(=O)N1CCN(CC1)C(=O)C(CCC(=O)OC(C)(C)C)NC(=O)C1=NC2=CC(=CC=C2C(=C1)OC1(CCC1)C(=O)OCC)C | C34H46N4O9
